US09029391B2
4-(2,4-dimethylphenyl)-2-methyl-1-oxo-1,2-dihydro-3-isoquinolinecarboxylic acid
A mixture of methyl 4-(2,4-dimethylphenyl)-2-methyl-1-oxo-1,2-dihydroisoquinoline-3-carboxylate (30 g, 74.7 mmol) in tetrahydrofuran (THF) (400 mL) was treated with lithium hydroxide (8.94 g, 373 mmol) and stirred at reflux overnight. The mixture was concentrated and used crude in the next step (21.6 g, 94%). 1H NMR (400 MHz, DMSO-d6) δ ppm 13.81-14.14 (m, 1 H) 8.28-8.37 (m, 1 H) 7.62-7.69 (m, 1 H) 7.53-7.61 (m, 1 H) 7.13-7.19 (m, 1 H) 7.01-7.12 (m, 2 H) 6.82-6.91 (m, 1 H) 3.52 (s, 3 H) 2.34 (s, 3 H) 1.97 (s, 3 H); LC/MS (m/z) ES+=308 (M+1).

reactant | methyl 4-(2,4-dimethylphenyl)-2-methyl-1-oxo-1,2-dihydroisoquinoline-3-carboxylate | 74.7 mmol, 30 g | CC1=C(C=CC(=C1)C)C1=C(N(C(C2=CC=CC=C12)=O)C)C(=O)OC | C20H19NO3
reactant | lithium hydroxide | 373 mmol, 8.94 g | [OH-].[Li+]
solvent | tetrahydrofuran | 400 mL | O1CCCC1 | C4H8O
product | 4-(2,4-dimethylphenyl)-2-methyl-1-oxo-1,2-dihydro-3-isoquinolinecarboxylic acid | CC1=C(C=CC(=C1)C)C1=C(N(C(C2=CC=CC=C12)=O)C)C(=O)O | C19H17NO3
